US04710573
3-(1-Ethyl-4-piperidinyl)-6-fluoro-1H-indazole
To a stirred suspension, under nitrogen, of 14.0 g of 3-(1-acetyl-4-piperidinyl)-6-fluoro-1H-indazole in 180 ml of tetrahydrofuran was added, dropwise, 55 ml of a 1M solution of lithium aluminum hydride in tetrahydrofuran. The reaction mixture was stirred under reflux for 1 hr and then stirred at ambient temperature for 15 hrs. The reaction mixture was cooled in an ice-salt bath and water was added slowly. The reaction mixture was filtered. The filter cake was washed with tetrahydrofuran and the filtrate was concentrated. Recrystallization of the residue from toluene afforded 9.0 g (68%) of product. Recrystallization of a 3.0 g sample from toluene yielded the analytical sample, mp 175°-178° C.

reactant | 3-(1-acetyl-4-piperidinyl)-6-fluoro-1H-indazole | 14.0 g | C(C)(=O)N1CCC(CC1)C1=NNC2=CC(=CC=C12)F | C14H16FN3O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
product | 3-(1-Ethyl-4-piperidinyl)-6-fluoro-1H-indazole | 9.0 g, 68% | C(C)N1CCC(CC1)C1=NNC2=CC(=CC=C12)F | C14H18FN3
